### PR TITLE
[Merged by Bors] - feat(CategoryTheory): infer filteredness from filteredness of costructured arrow categories

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean [hunk 1]
```diff
@@ -191,6 +204,27 @@ theorem hasColimitsOfShape_grothendieck [∀ X, HasColimitsOfShape (F.obj X) H]
...
+def fiberwiseColimCompColimIso : fiberwiseColim F H ⋙ colim ≅ colim :=
+  NatIso.ofComponents (fun G => colimitFiberwiseColimitIso G)
+    fun _ => by (iterate 2 apply colimit.hom_ext; intro); simp
+
+/-- Composing `fiberwiseColim F H` with the evaluation functor `(evaluation C H).obj c` is
+naturally isomorphic to precomposing the Grothendieck inclusion `Grothendieck.ι` to `colim`. -/
+@[simps!]
+def fiberwiseColimCompEvaluationIso (c : C) :
+    fiberwiseColim F H ⋙ (evaluation C H).obj c ≅
+    (whiskeringLeft _ _ _).obj (Grothendieck.ι F c) ⋙ colim :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean:223]:
```suggestion
      (whiskeringLeft _ _ _).obj (Grothendieck.ι F c) ⋙ colim :=
```

File: Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean [hunk 2]
```diff
@@ -111,18 +123,18 @@ def isColimitCoconeFiberwiseColimitOfCocone {c : Cocone G} (hc : IsColimit c) :
...
+      Grothendieck.forget_obj, fiberwiseColim_obj, natTransIntoForgetCompFiberwiseColimit_app,
       whiskerLeft_app]
-    simp only [fiberwiseColimit_obj, coconeFiberwiseColimitOfCocone_pt, Functor.const_obj_obj,
+    simp only [fiberwiseColim_obj, coconeFiberwiseColimitOfCocone_pt, Functor.const_obj_obj,
       coconeFiberwiseColimitOfCocone_ι_app] at this
     simp [← this]
 
-lemma hasColimit_fiberwiseColimit [HasColimit G] : HasColimit (fiberwiseColimit G) where
+lemma hasColimit_fiberwiseColim [HasColimit G] : HasColimit (fiberwiseColimit G) where
   exists_colimit := ⟨⟨_, isColimitCoconeFiberwiseColimitOfCocone (colimit.isColimit _)⟩⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean:133]: I am not sure the name had to be changed.

File: Mathlib/CategoryTheory/Filtered/CostructuredArrow.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+    simp only [comp_obj, CostructuredArrow.functor_obj, Cat.of_α]
+    exact filtered_colim_preservesFiniteLimits
+  refine lim.map ((colimitIsoColimitGrothendieck L F.flip).hom ≫
+    (inv (colimit.pre (CostructuredArrow.grothendieckProj L ⋙ F.flip) R'))) ≫
+    (colimitLimitIso (R' ⋙ CostructuredArrow.grothendieckProj L ⋙ F.flip).flip).inv ≫
+    colim.map ?_ ≫
+    colimit.pre _ R' ≫
+    (colimitIsoColimitGrothendieck L (limit F)).inv
+  rw [← Functor.assoc, ← Functor.assoc]
+  exact (limitCompWhiskeringLeftIsoCompLimit F (R' ⋙ CostructuredArrow.grothendieckProj L)).hom⟩
```
[the remark this answers is not in the document]
Comment (javra) [reply Mathlib/CategoryTheory/Filtered/CostructuredArrow.lean:47]: Does it matter if the statement is a `Prop` anyway?

File: Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean [hunk 4]
```diff
@@ -111,18 +123,18 @@ def isColimitCoconeFiberwiseColimitOfCocone {c : Cocone G} (hc : IsColimit c) :
...
-      Grothendieck.forget_obj, fiberwiseColimit_obj, natTransIntoForgetCompFiberwiseColimit_app,
+      Grothendieck.forget_obj, fiberwiseColim_obj, natTransIntoForgetCompFiberwiseColimit_app,
       whiskerLeft_app]
-    simp only [fiberwiseColimit_obj, coconeFiberwiseColimitOfCocone_pt, Functor.const_obj_obj,
+    simp only [fiberwiseColim_obj, coconeFiberwiseColimitOfCocone_pt, Functor.const_obj_obj,
       coconeFiberwiseColimitOfCocone_ι_app] at this
     simp [← this]
 
-lemma hasColimit_fiberwiseColimit [HasColimit G] : HasColimit (fiberwiseColimit G) where
+lemma hasColimit_fiberwiseColim [HasColimit G] : HasColimit (fiberwiseColimit G) where
```
[the remark this answers is not in the document]
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Shapes/Grothendieck.lean]: Oops, this was already fixed after I forgot to submit the comment.

File: Mathlib/CategoryTheory/Filtered/CostructuredArrow.lean [hunk 5]
```diff
@@ -0,0 +1,48 @@
...
+Copyright (c) 2024 Jakob von Raumer. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jakob von Raumer
+-/
+import Mathlib.CategoryTheory.Filtered.OfColimitCommutesFiniteLimit
+import Mathlib.CategoryTheory.Functor.KanExtension.Adjunction
+import Mathlib.CategoryTheory.Limits.FilteredColimitCommutesFiniteLimit
+import Mathlib.CategoryTheory.Limits.Preserves.Grothendieck
+import Mathlib.CategoryTheory.Limits.Final
+/-!
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Filtered/CostructuredArrow.lean:11]:
```suggestion

/-!
```

File: Mathlib/CategoryTheory/Limits/Preserves/Grothendieck.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+      congr 1
+      apply limit.hom_ext
+      intro e
+      simp [← NatTrans.comp_app_assoc]
+
+variable (C) (F) in
+/-- If `colim` on a category `C` preserves limits of shape `J` and if it does so for `colim` on
+every `F.obj c` for a functor `F : C ⥤ Cat`, then `colim` on `Grothendieck F` also preserves limits
+of shape `J`. -/
+instance preservesLimitsOfShape_colim_Grothendieck [HasColimitsOfShape C H] [HasLimitsOfShape J H]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Preserves/Grothendieck.lean:62]:
```suggestion
instance preservesLimitsOfShape_colim_grothendieck [HasColimitsOfShape C H] [HasLimitsOfShape J H]
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+
